US06048868
1-Methylene-2-(N-phenyl)carbamoyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline
To a solution of 10-methoxyharmalan in anhydrous ether is added phenyl isocyanate. The mixture is stirred for 1 h 30 and then heated at 45° C. for 30 min. The 1-methylene-2-(N-plienyl)carbamoyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline is recovered by filtration and then washed with ether.

reactant | 10-methoxyharmalan | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ether | CCOCC | C4H10O
product | 1-Methylene-2-(N-phenyl)carbamoyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(NC1=CC=CC=C1)=O | C20H19N3O2
